US07772253B2
4-{3-[1-(3,5-Diethoxy-4-fluoro-benzyl)-piperidin-4-ylcarbamoyl]-5-methoxy-phenoxy}-butyric acid methyl ester
In analogy to the procedure described in example 50k), 4-[3-methoxy-5-(piperidin-4-ylcarbamoyl)-phenoxy]-butyric acid methyl ester [prepared from 4-[3-methoxy-5-(3-methoxycarbonyl-propoxy)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester by Boc cleavage in analogy to example 50i)] was reacted with 3,5-diethoxy-4-fluoro-benzaldehyde (example 50 g), sodium cyanoborohydride, N-ethyl-diisopropylamine and acetic acid in ethanol at 50° C. to yield the title compound as colorless solid. MS: 547.3 (MH+).

reactant | 4-[3-methoxy-5-(piperidin-4-ylcarbamoyl)-phenoxy]-butyric acid methyl ester | COC(CCCOC1=CC(=CC(=C1)C(NC1CCNCC1)=O)OC)=O | C18H26N2O5
reactant | 4-[3-methoxy-5-(3-methoxycarbonyl-propoxy)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC(=CC(=C1)OCCCC(=O)OC)OC)=O | C23H34N2O7
reactant | 3,5-diethoxy-4-fluoro-benzaldehyde | 50 g | C(C)OC=1C=C(C=O)C=C(C1F)OCC | C11H13FO3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-{3-[1-(3,5-Diethoxy-4-fluoro-benzyl)-piperidin-4-ylcarbamoyl]-5-methoxy-phenoxy}-butyric acid methyl ester | COC(CCCOC1=CC(=CC(=C1)OC)C(NC1CCN(CC1)CC1=CC(=C(C(=C1)OCC)F)OCC)=O)=O | C29H39FN2O7
